US04729784
1.15 g of 1-[4-propyl-2H-1,4-benzoxazin-3(4H)-on-6-yl]-3,4-dimethyl-2,5-dioxo-2,5-dihydropyrrole was dissolved in 100 ml of methanol, and 0.09 g of sodium borohydride was added at room temperature. The mixture was stirred at this temperature for 3 hours. One drop of acetic acid was added, and methanol was evaporated. The concentrated residue was extracted with dichloromethane, washed with water and dried. The solvent was evaporated, and the precipitated crystals were recrystallized with ethanol to give 0.8 g of 1-[4-propyl-2H-1,4-benzoxazin-3(4H)-on-6-yl]-3,4-dimethyl-2-hydroxy-5-oxo-2,5-dihydropyrrole. m.p. 124°-125° C.

reactant | 1-[4-propyl-2H-1,4-benzoxazin-3(4H)-on-6-yl]-3,4-dimethyl-2,5-dioxo-2,5-dihydropyrrole | 1.15 g | C(CC)N1C(COC2=C1C=C(C=C2)N2C(C(=C(C2=O)C)C)=O)=O | C17H18N2O4
reactant | sodium borohydride | 0.09 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
catalyst | acetic acid | One drop | C(C)(=O)O | C2H4O2
product | 1-[4-propyl-2H-1,4-benzoxazin-3(4H)-on-6-yl]-3,4-dimethyl-2-hydroxy-5-oxo-2,5-dihydropyrrole | 0.8 g | C(CC)N1C(COC2=C1C=C(C=C2)N2C(C(=C(C2=O)C)C)O)=O | C17H20N2O4
